US08471005B2
Into a 8-dram vial, 4-(4-{7-[2-(Methanesulfonyl-methyl-amino)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino}-3-methoxy-benzyl)-piperazine-1-carboxylic acid tert-butyl ester (0.450 g, 0.724 mmol), Methylene chloride (15 mL, 230 mmol), and Trifluoroacetic Acid (3 mL, 40 mmol) were added. The reaction was stirred at room temperature overnight. The reaction was partitioned with saturated NaHCO3 and DCM. The organic was separated, washed with Brine and dried over Na2SO4. The solid was filtered and washed with DCM. The solvent was removed under vacuum to give N-{2-[2-(2-Methoxy-4-piperazin-1-ylmethyl-phenylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-phenyl}-N-methyl-methanesulfonamide as an orange solid (0.37 g, 98%). LCMS (E/I+) 522.12 (M+H). NMR 1H (DMSO-d6)-8.95 (s, 1H), 7.95-7.99 (m, 1H), 7.87 (d, 1H, J=7.99 Hz), 7.72 (s, 1H), 7.60-7.67 (m, 1H), 7.50-7.57 (m, 2H), 7.07 (d, 1H, J=4.59 Hz), 6.96 (d, 1H, J=4.59 Hz), 6.93 (s, 1H), 6.72 (d, 1H, J=7.94 Hz), 3.83 (s, 3H), 3.37 (s, 3H), 3.04 (s, 3H), 2.88 (s, 3H), 2.73 (t, 4H, J=4.02 Hz), 2.29 (bs, 4H).

reactant | 4-(4-{7-[2-(Methanesulfonyl-methyl-amino)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino}-3-methoxy-benzyl)-piperazine-1-carboxylic acid tert-butyl ester | 0.724 mmol, 0.450 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=CC(=C(C=C1)NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)N(C)S(=O)(=O)C)OC | C31H39N7O5S
reactant | Methylene chloride | 230 mmol, 15 mL | C(Cl)Cl | CH2Cl2
reactant | Trifluoroacetic Acid | 40 mmol, 3 mL | FC(C(=O)O)(F)F | C2HF3O2
product | N-{2-[2-(2-Methoxy-4-piperazin-1-ylmethyl-phenylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-phenyl}-N-methyl-methanesulfonamide | 0.37 g, 98% | COC1=C(C=CC(=C1)CN1CCNCC1)NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)N(S(=O)(=O)C)C | C26H31N7O3S
